US03992408
In the manner given in example 12, 7-nitro-1,3-dihydro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione is heated with (3-phthalimidoacetonyl)amine, ethylene ketal in ethanol to give 7-nitro-5-(o-chlorophenyl)-2-[ (3-phthalimidoacetonyl)amino]-3H-1,4-benzodiazepine, ethylene ketal.

reactant | 7-nitro-1,3-dihydro-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)Cl)C1 | C15H10ClN3O2S
reactant | (3-phthalimidoacetonyl)amine | C1(C=2C(C(N1CC(CN)=O)=O)=CC=CC2)=O | C11H10N2O3
solvent | ethanol | C(C)O | C2H6O
product | 7-nitro-5-(o-chlorophenyl)-2-[ (3-phthalimidoacetonyl)amino]-3H-1,4-benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC(=N2)NCC(=O)CN2C(C=3C(C2=O)=CC=CC3)=O)C3=C(C=CC=C3)Cl)C1 | C26H18ClN5O5
